US06503907B2
To 1.3 g (3.5 mmol) 5-[5-(Allyl-methyl-amino)-pentyl]-indole-1-carboxylic acid tert-butyl ester in 20 ml ethanol were added 1.5 ml water and 3 ml conc. NaOH, and stirred at 60° C. for 1.5 h. The slurry was concentrated and dissolved in ether/water. The organic layer was washed with water and dried over Na2SO4 and evaporated to yield 900 mg (quantitative) Allyl-[5-(1H-indol-5-yl)-pentyl]-methyl-amine as light yellow oil, MS: 257 (MH+).

reactant | 5-[5-(Allyl-methyl-amino)-pentyl]-indole-1-carboxylic acid tert-butyl ester | 3.5 mmol, 1.3 g | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)CCCCCN(C)CC=C | C22H32N2O2
reactant | water | 1.5 ml | O | H2O
reactant | NaOH | 3 ml | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | Allyl-[5-(1H-indol-5-yl)-pentyl]-methyl-amine | 900 mg | C(C=C)N(C)CCCCCC=1C=C2C=CNC2=CC1 | C17H24N2
